************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: TSPC
* View Name:     schematic
* Netlisted on:  Jan  3 20:17:25 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    TSPC
* View Name:    schematic
************************************************************************

.SUBCKT TSPC CLK D GND INVQ Q RST VDD
*.PININFO CLK:I D:I RST:I INVQ:O Q:O GND:B VDD:B
MPM12 net044 net013 VDD VDD p18 W=880n L=180n m=1
MPM26 INVQ Q VDD VDD p18 W=880n L=180n m=1
MPM10 net013 D VDD VDD p18 W=440n L=180n m=1
MPM25 Q net27 VDD VDD p18 W=880n L=180n m=1
MPM24 net27 CLK VDD VDD p18 W=880n L=180n m=1
MPM22 net043 RST net044 VDD p18 W=880n L=180n m=1
MPM23 net045 CLK net043 VDD p18 W=880n L=180n m=1
MNM19 net045 RST GND GND n18 W=440n L=180n m=1
MNM20 INVQ Q GND GND n18 W=440n L=180n m=1
MNM12 net013 D GND GND n18 W=220n L=180n m=1
MNM4 net49 net27 GND GND n18 W=440n L=180n m=1
MNM3 Q CLK net49 GND n18 W=440n L=180n m=1
MNM16 net045 net013 GND GND n18 W=440n L=180n m=1
MNM18 net27 net045 net48 GND n18 W=440n L=180n m=1
MNM17 net48 CLK GND GND n18 W=440n L=180n m=1
.ENDS

