************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: TSPC_v2
* View Name:     schematic
* Netlisted on:  Jan 13 02:39:40 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    TSPC_v2
* View Name:    schematic
************************************************************************

.SUBCKT TSPC_v2 CLK D GND Q RST VDD
*.PININFO CLK:I D:I RST:I Q:O GND:B VDD:B
MPM10 net057 D VDD VDD p18 W=440n L=180n m=1
MPM12 net072 net057 VDD VDD p18 W=880n L=180n m=1
MPM25 Q net064 VDD VDD p18 W=880n L=180n m=1
MPM24 net064 CLK VDD VDD p18 W=880n L=180n m=1
MPM22 net073 RST net072 VDD p18 W=880n L=180n m=1
MPM23 net060 CLK net073 VDD p18 W=880n L=180n m=1
MNM12 net057 D GND GND n18 W=220n L=180n m=1
MNM5 Q CLK net070 GND n18 W=440n L=180n m=1
MNM18 net064 net060 net071 GND n18 W=440n L=180n m=1
MNM2 net070 net064 GND GND n18 W=440n L=180n m=1
MNM17 net071 CLK GND GND n18 W=440n L=180n m=1
MNM19 net060 RST GND GND n18 W=440n L=180n m=1
MNM16 net060 net057 GND GND n18 W=440n L=180n m=1
.ENDS

