************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: VU_reg
* View Name:     schematic
* Netlisted on:  Jan 16 19:31:32 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    AND2_TG
* View Name:    schematic
************************************************************************

.SUBCKT AND2_TG A B GND VDD Y
*.PININFO A:I B:I Y:O GND:B VDD:B
MPM2 net14 A VDD VDD p18 W=440n L=180n m=1
MPM1 B net14 Y VDD p18 W=220n L=180n m=1
MPM0 GND A Y VDD p18 W=220n L=180n m=1
MNM2 net14 A GND GND n18 W=220n L=180n m=1
MNM1 B A Y GND n18 W=220n L=180n m=1
MNM0 GND net14 Y GND n18 W=220n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    MA
* View Name:    schematic
************************************************************************

.SUBCKT MA A B C CIN GND S VDD
*.PININFO A:I B:I CIN:I C:O S:O GND:B VDD:B
MNM1 C net168 GND GND n18 W=440n L=180n m=1
MNM0 S net171 GND GND n18 W=440n L=180n m=1
MNM24 net171 CIN net197 GND n18 W=440n L=180n m=1
MNM23 net171 net168 net186 GND n18 W=440n L=180n m=1
MNM22 net168 A net201 GND n18 W=440n L=180n m=1
MNM21 net168 CIN net163 GND n18 W=440n L=180n m=1
MNM20 net197 A net198 GND n18 W=440n L=180n m=1
MNM19 net186 CIN GND GND n18 W=440n L=180n m=1
MNM18 net186 B GND GND n18 W=440n L=180n m=1
MNM17 net186 A GND GND n18 W=440n L=180n m=1
MNM16 net201 B GND GND n18 W=440n L=180n m=1
MNM15 net163 B GND GND n18 W=440n L=180n m=1
MNM14 net163 A GND GND n18 W=440n L=180n m=1
MNM13 net198 B GND GND n18 W=440n L=180n m=1
MPM25 net199 A VDD VDD p18 W=880n L=180n m=1
MPM24 net200 B net199 VDD p18 W=880n L=180n m=1
MPM23 net172 CIN VDD VDD p18 W=880n L=180n m=1
MPM22 net172 B VDD VDD p18 W=880n L=180n m=1
MPM21 net172 A VDD VDD p18 W=880n L=180n m=1
MPM20 net202 B VDD VDD p18 W=880n L=180n m=1
MPM19 net165 B VDD VDD p18 W=880n L=180n m=1
MPM18 net165 A VDD VDD p18 W=880n L=180n m=1
MPM16 net171 CIN net200 VDD p18 W=880n L=180n m=1
MPM15 net171 net168 net172 VDD p18 W=880n L=180n m=1
MPM14 net168 A net202 VDD p18 W=880n L=180n m=1
MPM12 net168 CIN net165 VDD p18 W=880n L=180n m=1
MPM1 C net168 VDD VDD p18 W=880n L=180n m=1
MPM0 S net171 VDD VDD p18 W=880n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX GND I0 I1 INVS S VDD VOUT
*.PININFO I0:I I1:I INVS:I S:I VOUT:O GND:B VDD:B
MPM1 I1 INVS VOUT VDD p18 W=440n L=180n m=1
MPM0 I0 S VOUT VDD p18 W=440n L=180n m=1
MNM1 I1 S VOUT GND n18 W=440n L=180n m=1
MNM0 I0 INVS VOUT GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VOUT
*.PININFO VI:I VOUT:O GND:B VDD:B
MPM0 VOUT VI VDD VDD p18 W=880n L=180n m=1
MNM0 VOUT VI GND GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    CSA_B
* View Name:    schematic
************************************************************************

.SUBCKT CSA_B A B CI COUT GND INVCI INVCOUT S VDD
*.PININFO A:I B:I CI:I INVCI:I COUT:O INVCOUT:O S:O GND:B VDD:B
MPM3 net359 A VDD VDD p18 W=880n L=180n m=1
MPM2 net366 net362 VDD VDD p18 W=440n L=180n m=1
MPM1 net362 B VDD VDD p18 W=440n L=180n m=1
MPM0 net362 A VDD VDD p18 W=440n L=180n m=1
MPM4 net366 B net359 VDD p18 W=880n L=180n m=1
MPM8 net368 A VDD VDD p18 W=880n L=180n m=1
MPM7 net368 B VDD VDD p18 W=880n L=180n m=1
MPM9 net365 net363 net368 VDD p18 W=880n L=180n m=1
MPM6 net363 B net361 VDD p18 W=880n L=180n m=1
MPM5 net361 A VDD VDD p18 W=880n L=180n m=1
XI0 GND net358 net357 INVCI CI VDD S / MUX
XI2 GND net353 net354 INVCI CI VDD COUT / MUX
XI1 GND net362 net363 INVCI CI VDD INVCOUT / MUX
MNM0 net362 A net360 GND n18 W=440n L=180n m=1
MNM4 net366 net362 net364 GND n18 W=440n L=180n m=1
MNM1 net360 B GND GND n18 W=440n L=180n m=1
MNM6 net364 A GND GND n18 W=440n L=180n m=1
MNM5 net364 B GND GND n18 W=440n L=180n m=1
MNM8 net365 A net367 GND n18 W=440n L=180n m=1
MNM3 net363 A GND GND n18 W=220n L=180n m=1
MNM2 net363 B GND GND n18 W=220n L=180n m=1
MNM7 net365 net363 GND GND n18 W=220n L=180n m=1
MNM9 net367 B GND GND n18 W=440n L=180n m=1
XI6 GND VDD net366 net358 / inv
XI5 GND VDD net365 net357 / inv
XI3 GND VDD net362 net353 / inv
XI4 GND VDD net363 net354 / inv
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    XOR2_TG_41
* View Name:    schematic
************************************************************************

.SUBCKT XOR2_TG_41 A B GND INVA INVB VDD Y
*.PININFO A:I B:I INVA:I INVB:I Y:O GND:B VDD:B
MNM3 INVA B Y GND n18 W=440n L=180n m=1
MNM2 A INVB Y GND n18 W=440n L=180n m=1
MPM2 INVA INVB Y VDD p18 W=440n L=180n m=1
MPM3 A B Y VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    HA_2_3
* View Name:    schematic
************************************************************************

.SUBCKT HA_2_3 A B C GND INVC S VDD
*.PININFO A:I B:I C:O INVC:O S:O GND:B VDD:B
MNM6 S net113 GND GND n18 W=220n L=180n m=1
MNM0 INVC B net123 GND n18 W=440n L=180n m=1
MNM2 net113 INVC net111 GND n18 W=440n L=180n m=1
MNM4 net111 B GND GND n18 W=440n L=180n m=1
MNM3 net111 A GND GND n18 W=440n L=180n m=1
MNM1 net123 A GND GND n18 W=440n L=180n m=1
MNM5 C INVC GND GND n18 W=220n L=180n m=1
MPM6 S net113 VDD VDD p18 W=440n L=180n m=1
MPM3 net122 B VDD VDD p18 W=880n L=180n m=1
MPM1 INVC B VDD VDD p18 W=440n L=180n m=1
MPM0 INVC A VDD VDD p18 W=440n L=180n m=1
MPM2 net113 INVC VDD VDD p18 W=440n L=180n m=1
MPM4 net113 A net122 VDD p18 W=880n L=180n m=1
MPM5 C INVC VDD VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    HA_SC
* View Name:    schematic
************************************************************************

.SUBCKT HA_SC A B COUT GND S VDD
*.PININFO A:I B:I COUT:O S:O GND:B VDD:B
MPM6 COUT net20 VDD VDD p18 W=440n L=180n m=1
MPM5 S net32 VDD VDD p18 W=440n L=180n m=1
MPM4 net32 A net51 VDD p18 W=880n L=180n m=1
MPM3 net51 B VDD VDD p18 W=880n L=180n m=1
MPM2 net32 net20 VDD VDD p18 W=440n L=180n m=1
MPM1 net20 B VDD VDD p18 W=440n L=180n m=1
MPM0 net20 A VDD VDD p18 W=440n L=180n m=1
MNM6 COUT net20 GND GND n18 W=220n L=180n m=1
MNM5 S net32 GND GND n18 W=220n L=180n m=1
MNM4 net30 B GND GND n18 W=440n L=180n m=1
MNM3 net30 A GND GND n18 W=440n L=180n m=1
MNM2 net32 net20 net30 GND n18 W=440n L=180n m=1
MNM1 net044 A GND GND n18 W=440n L=180n m=1
MNM0 net20 B net044 GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    Multiplier
* View Name:    schematic
************************************************************************

.SUBCKT Multiplier GND O0 O1 O2 O3 O4 O5 O6 O7 VDD X0 X1 X2 X3 Y0 Y1 Y2 Y3
*.PININFO X0:I X1:I X2:I X3:I Y0:I Y1:I Y2:I Y3:I O0:O O1:O O2:O O3:O O4:O 
*.PININFO O5:O O6:O O7:O GND:B VDD:B
XI42 X2 Y2 GND VDD net209 / AND2_TG
XI47 X1 Y0 GND VDD net227 / AND2_TG
XI45 X1 Y2 GND VDD net218 / AND2_TG
XI48 X0 Y0 GND VDD O0 / AND2_TG
XI51 X0 Y3 GND VDD net213 / AND2_TG
XI38 X3 Y1 GND VDD net211 / AND2_TG
XI44 X1 Y3 GND VDD net206 / AND2_TG
XI49 X0 Y1 GND VDD net233 / AND2_TG
XI37 X3 Y2 GND VDD net198 / AND2_TG
XI50 X0 Y2 GND VDD net230 / AND2_TG
XI43 X2 Y3 GND VDD net197 / AND2_TG
XI40 X2 Y0 GND VDD net224 / AND2_TG
XI39 X3 Y0 GND VDD net217 / AND2_TG
XI41 X2 Y1 GND VDD net225 / AND2_TG
XI46 X1 Y1 GND VDD net228 / AND2_TG
XI36 X3 Y3 GND VDD net182 / AND2_TG
XI26 net220 net219 net207 net221 GND net222 VDD / MA
XI25 net210 net208 net194 net205 GND net204 VDD / MA
XI20 net211 net209 net196 net206 GND net205 VDD / MA
XI21 net224 net228 net221 net230 GND net0113 VDD / MA
XI30 net194 net193 net192 net184 GND net191 net185 O5 VDD / CSA_B
XI29 net207 net204 net202 net192 GND net203 net191 O4 VDD / CSA_B
XI53 net187 net186 net184 net179 GND net185 net059 O6 VDD / CSA_B
XI54 net180 net179 GND net056 net059 VDD O7 / XOR2_TG_41
XI35 net223 net222 net202 GND net203 O3 VDD / HA_2_3
XI52 net188 net182 net180 GND net056 net186 VDD / HA_2_3
XI24 net0111 net0113 net223 GND O2 VDD / HA_SC
XI23 net196 net195 net187 GND net193 VDD / HA_SC
XI18 net218 net213 net208 GND net219 VDD / HA_SC
XI17 net198 net197 net188 GND net195 VDD / HA_SC
XI16 net227 net233 net0111 GND O1 VDD / HA_SC
XI19 net217 net225 net210 GND net220 VDD / HA_SC
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    CSA_C
* View Name:    schematic
************************************************************************

.SUBCKT CSA_C A B CI COUT GND INVCI S VDD
*.PININFO A:I B:I CI:I INVCI:I COUT:O S:O GND:B VDD:B
MPM3 net375 A VDD VDD p18 W=880n L=180n m=1
MPM2 net381 net384 VDD VDD p18 W=440n L=180n m=1
MPM1 net384 B VDD VDD p18 W=440n L=180n m=1
MPM0 net384 A VDD VDD p18 W=440n L=180n m=1
MPM4 net381 B net375 VDD p18 W=880n L=180n m=1
MPM8 net382 A VDD VDD p18 W=880n L=180n m=1
MPM7 net382 B VDD VDD p18 W=880n L=180n m=1
MPM9 net379 net378 net382 VDD p18 W=880n L=180n m=1
MPM6 net378 B net377 VDD p18 W=880n L=180n m=1
MPM5 net377 A VDD VDD p18 W=880n L=180n m=1
XI0 GND net374 net373 INVCI CI VDD S / MUX
XI2 GND net371 net372 INVCI CI VDD COUT / MUX
MNM0 net384 A net376 GND n18 W=440n L=180n m=1
MNM4 net381 net384 net380 GND n18 W=440n L=180n m=1
MNM1 net376 B GND GND n18 W=440n L=180n m=1
MNM6 net380 A GND GND n18 W=440n L=180n m=1
MNM5 net380 B GND GND n18 W=440n L=180n m=1
MNM8 net379 B net383 GND n18 W=440n L=180n m=1
MNM3 net378 A GND GND n18 W=220n L=180n m=1
MNM2 net378 B GND GND n18 W=220n L=180n m=1
MNM7 net379 net378 GND GND n18 W=220n L=180n m=1
MNM9 net383 A GND GND n18 W=440n L=180n m=1
XI6 GND VDD net381 net374 / inv
XI5 GND VDD net379 net373 / inv
XI3 GND VDD net384 net371 / inv
XI4 GND VDD net378 net372 / inv
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    vector_unit_v3
* View Name:    schematic
************************************************************************

.SUBCKT vector_unit_v3 A0 A1 A2 A3 B0 B1 B2 B3 GND O0 O1 O2 O3 O4 O5 O6 O7 O8 
+ VDD X0 X1 X2 X3 Y0 Y1 Y2 Y3
*.PININFO A0:I A1:I A2:I A3:I B0:I B1:I B2:I B3:I X0:I X1:I X2:I X3:I Y0:I 
*.PININFO Y1:I Y2:I Y3:I O0:O O1:O O2:O O3:O O4:O O5:O O6:O O7:O O8:O GND:B 
*.PININFO VDD:B
XI96 GND net57 net62 net61 net60 net63 net64 net65 net59 VDD B0 B1 B2 B3 A0 A1 
+ A2 A3 / Multiplier
XI95 GND net52 net35 net36 net37 net38 net39 net40 net41 VDD X0 X1 X2 X3 Y0 Y1 
+ Y2 Y3 / Multiplier
XI97 net57 net52 net47 GND net42 O0 VDD / HA_2_3
XI103 net65 net40 net56 net55 GND net49 net48 O6 VDD / CSA_B
XI102 net64 net39 net53 net56 GND net45 net49 O5 VDD / CSA_B
XI101 net63 net38 net54 net53 GND net46 net45 O4 VDD / CSA_B
XI100 net60 net37 net50 net54 GND net43 net46 O3 VDD / CSA_B
XI99 net61 net36 net51 net50 GND net44 net43 O2 VDD / CSA_B
XI98 net62 net35 net47 net51 GND net42 net44 O1 VDD / CSA_B
XI105 net59 net41 net55 O8 GND net48 O7 VDD / CSA_C
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    TSPC
* View Name:    schematic
************************************************************************

.SUBCKT TSPC CLK D GND INVQ Q RST VDD
*.PININFO CLK:I D:I RST:I INVQ:O Q:O GND:B VDD:B
MPM12 net044 net013 VDD VDD p18 W=880n L=180n m=1
MPM26 INVQ Q VDD VDD p18 W=880n L=180n m=1
MPM10 net013 D VDD VDD p18 W=440n L=180n m=1
MPM25 Q net27 VDD VDD p18 W=880n L=180n m=1
MPM24 net27 CLK VDD VDD p18 W=880n L=180n m=1
MPM22 net043 RST net044 VDD p18 W=880n L=180n m=1
MPM23 net045 CLK net043 VDD p18 W=880n L=180n m=1
MNM19 net045 RST GND GND n18 W=440n L=180n m=1
MNM20 INVQ Q GND GND n18 W=440n L=180n m=1
MNM12 net013 D GND GND n18 W=220n L=180n m=1
MNM4 net49 net27 GND GND n18 W=440n L=180n m=1
MNM3 Q CLK net49 GND n18 W=440n L=180n m=1
MNM16 net045 net013 GND GND n18 W=440n L=180n m=1
MNM18 net27 net045 net48 GND n18 W=440n L=180n m=1
MNM17 net48 CLK GND GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    Register_9bit
* View Name:    schematic
************************************************************************

.SUBCKT Register_9bit CLK D0 D1 D2 D3 D4 D5 D6 D7 D8 GND INVQ0 INVQ1 INVQ2 
+ INVQ3 INVQ4 INVQ5 INVQ6 INVQ7 INVQ8 Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 RST VDD
*.PININFO CLK:I D0:I D1:I D2:I D3:I D4:I D5:I D6:I D7:I D8:I RST:I INVQ0:O 
*.PININFO INVQ1:O INVQ2:O INVQ3:O INVQ4:O INVQ5:O INVQ6:O INVQ7:O INVQ8:O Q0:O 
*.PININFO Q1:O Q2:O Q3:O Q4:O Q5:O Q6:O Q7:O Q8:O GND:B VDD:B
XI8 CLK D8 GND INVQ8 Q8 RST VDD / TSPC
XI7 CLK D7 GND INVQ7 Q7 RST VDD / TSPC
XI6 CLK D6 GND INVQ6 Q6 RST VDD / TSPC
XI5 CLK D5 GND INVQ5 Q5 RST VDD / TSPC
XI4 CLK D4 GND INVQ4 Q4 RST VDD / TSPC
XI3 CLK D3 GND INVQ3 Q3 RST VDD / TSPC
XI2 CLK D2 GND INVQ2 Q2 RST VDD / TSPC
XI1 CLK D1 GND INVQ1 Q1 RST VDD / TSPC
XI0 CLK D0 GND INVQ0 Q0 RST VDD / TSPC
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    VU_reg
* View Name:    schematic
************************************************************************

.SUBCKT VU_reg A0 A1 A2 A3 B0 B1 B2 B3 CLK GND INVQ0 INVQ1 INVQ2 INVQ3 INVQ4 
+ INVQ5 INVQ6 INVQ7 INVQ8 Q0 Q0I Q1 Q1I Q2 Q2I Q3 Q3I Q4 Q4I Q5 Q5I Q6 Q6I Q7 
+ Q7I Q8 Q8I RST VDD X0 X1 X2 X3 Y0 Y1 Y2 Y3
*.PININFO A0:I A1:I A2:I A3:I B0:I B1:I B2:I B3:I CLK:I RST:I X0:I X1:I X2:I 
*.PININFO X3:I Y0:I Y1:I Y2:I Y3:I INVQ0:O INVQ1:O INVQ2:O INVQ3:O INVQ4:O 
*.PININFO INVQ5:O INVQ6:O INVQ7:O INVQ8:O Q0:O Q0I:O Q1:O Q1I:O Q2:O Q2I:O 
*.PININFO Q3:O Q3I:O Q4:O Q4I:O Q5:O Q5I:O Q6:O Q6I:O Q7:O Q7I:O Q8:O Q8I:O 
*.PININFO GND:B VDD:B
XI0 A0 A1 A2 A3 B0 B1 B2 B3 GND Q0I Q1I Q2I Q3I Q4I Q5I Q6I Q7I Q8I VDD X0 X1 
+ X2 X3 Y0 Y1 Y2 Y3 / vector_unit_v3
XI1 CLK Q0I Q1I Q2I Q3I Q4I Q5I Q6I Q7I Q8I GND INVQ0 INVQ1 INVQ2 INVQ3 INVQ4 
+ INVQ5 INVQ6 INVQ7 INVQ8 Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 RST VDD / Register_9bit
.ENDS

