************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: Wdrive
* View Name:     schematic
* Netlisted on:  Jan 13 18:04:36 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    Wdrive
* View Name:    schematic
************************************************************************

.SUBCKT Wdrive BIT DATA GND INVBIT VDD WEN
*.PININFO DATA:I WEN:I BIT:B GND:B INVBIT:B VDD:B
MNM1 net79 WEN BIT GND n18 W=1.76u L=180n m=1
MNM3 INVBIT WEN net78 GND n18 W=1.76u L=180n m=1
MNM5 net72 DATA GND GND n18 W=220n L=180n m=1
MNM0 net76 net72 GND GND n18 W=220n L=180n m=1
MNM2 GND net72 net79 GND n18 W=1.76u L=180n m=1
MNM4 net78 net76 GND GND n18 W=1.76u L=180n m=1
MPM0 net72 DATA VDD VDD p18 W=440n L=180n m=1
MPM1 net76 net72 VDD VDD p18 W=440n L=180n m=1
.ENDS

