************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: XOR2_TG_41
* View Name:     schematic
* Netlisted on:  Dec 31 03:02:00 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    XOR2_TG_41
* View Name:    schematic
************************************************************************

.SUBCKT XOR2_TG_41 A B GND INVA INVB VDD Y
*.PININFO A:I B:I INVA:I INVB:I Y:O GND:B VDD:B
MNM3 INVA B Y GND n18 W=440n L=180n m=1
MNM2 A INVB Y GND n18 W=440n L=180n m=1
MPM2 INVA INVB Y VDD p18 W=440n L=180n m=1
MPM3 A B Y VDD p18 W=440n L=180n m=1
.ENDS

